data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2,2,[CH3:4][C:5](=[O:6])[C:7]#[N+:8][O-:9].[CH:1]#[C:2][CH3:3]>>[cH:1]1[c:2]([CH3:3])[o:9][n:8][c:7]1[C:5]([CH3:4])=[O:6],water,298.15,18.01382414212364,-66.82234856100307
478,523,[CH3:11][C:12](=[O+:13][NH-:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:12]([CH3:11])([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[O:13][NH:14]2,water,298.15,12.076337038462595,-51.20774408133015
3321,3769,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[c-:9]1[c:10](=[O:11])[o:12][c:13]([C:14]#[N:15])[n+:16]1[CH3:17]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:9]2([C:7]([O:6][CH3:5])=[O:8])[C:10](=[O:11])[O:12][C:13]1([C:14]#[N:15])[N:16]2[CH3:17],water,298.15,26.04173150893725,-5.1835783139237765
219,239,[CH3:1][C:2](=[O:3])[C:4]#[C:5][Cl:6].[CH3:7][C:8](=[O:9])[N-:10][N+:11]#[C:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C:2](=[O:3])[c:4]1[c:5]([Cl:6])[n:10]([C:8]([CH3:7])=[O:9])[n:11][c:12]1-[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,21.233588323346208,-72.23301874906991
444,486,[CH3:14][CH:15]=[NH+:16][N-:17][C:18](=[O:19])[O:20][CH3:21].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[CH:15]([CH3:14])[NH:16][N:17]2[C:18](=[O:19])[O:20][CH3:21],water,298.15,15.888688334190386,-18.78793785443281
1201,1306,[CH3:15][O:16][C:17](=[O:18])[C:19](=[NH+:20][NH-:21])[C:22]([CH3:23])=[O:24].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:19]([C:17]([O:16][CH3:15])=[O:18])([C:22]([CH3:23])=[O:24])[NH:20][NH:21]2,water,298.15,18.41167275079664,-26.791033676460337
2274,2519,[CH3:23][C:24](=[O:25])[CH:26]=[O+:27][C-:28]([CH3:29])[C:30]([CH3:31])=[O:32].[F:1][C:2]([F:3])([F:4])/[C:5](=[C:6](\[c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)[C:13]([F:14])([F:15])[F:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[F:1][C:2]([F:3])([F:4])[C@@:5]1([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[C@:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)([C:13]([F:14])([F:15])[F:16])[C:28]([CH3:29])([C:30]([CH3:31])=[O:32])[O:27][CH:26]1[C:24]([CH3:23])=[O:25],water,298.15,26.657445837324392,-15.096980567224504
136,152,[CH3:1][C:2](=[O:3])[C:4]#[C:5][F:6].[CH3:7][N+:8](=[CH:9][C:10]#[N:11])[CH-:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([F:6])[CH:9]([C:10]#[N:11])[N:8]([CH3:7])[CH:12]1[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,6.253741511687454,-63.15876249472037
3051,3416,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][CH-:8][N+:9]#[C:10][C:11](=[O:12])[O:13][CH3:14]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:10]([C:11](=[O:12])[O:13][CH3:14])=[N:9][CH:8]1[CH3:7],water,298.15,21.74838640567477,-36.16975794957207
2019,2242,[CH3:12][O:13][C:14](=[O:15])[c-:16]1[o+:17][c:18](-[c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[o:25][c:26]1=[O:27].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Br:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]1([C:14]([O:13][CH3:12])=[O:15])[O:17][C:18]2([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:25][C:26]1=[O:27],water,298.15,26.3662397057362,-1.8990548635123807
4324,4945,[CH3:9][NH:10][C:11](=[O:12])[C:13]([CH3:14])=[O+:15][C-:16]([CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:16]([CH3:17])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[O:15][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[CH3:14],water,298.15,21.10056198738973,-49.19111852444973
4616,5262,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH:15]#[N+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:17]([C:18]([CH3:19])=[O:20])([C:21](=[O:22])[O:23][CH3:24])[N:16]=[CH:15]2,water,298.15,13.689064595962664,-18.974183480105804
4921,5606,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C-:19]([CH3:20])[N+:21]([CH3:22])=[C:23]([CH3:24])[C:25]#[N:26]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:19]([C:17]([O:16][CH3:15])=[O:18])([CH3:20])[N:21]([CH3:22])[C:23]2([CH3:24])[C:25]#[N:26],water,298.15,18.48455741900927,-10.8097969252423
